US06777561B1
Preparation of N-(4-chlorobenzyl)-4-cyanobenzyl amine (Compound 22)
To a methanolic solution (20 mL) of 4-chlorobenzylamine (1.02 g, 7.2 mmol) was added successively ZnCl2 (0.981 g, 7.2 mmol), 4-cyanobenzaldehyde (1.007 g, 7.3 mmol), and NaCNBH3 (0.452 g, 7.2 mmol). The reaction mixture was stirred at r.t. for 2 days. It was diluted with aq. sodium bicarbonate and the reaction mixture was extracted with methylene chloride. The combined organic extracts were washed with brine, dried over magnesium sulfate and concentrated. The product (compound 22) was purified by silica gel chromatography: 1.43 g (77%).

reactant | 4-chlorobenzylamine | 7.2 mmol, 20 mL, 1.02 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | 4-cyanobenzaldehyde | 7.3 mmol, 1.007 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | NaCNBH3 | 7.2 mmol, 0.452 g | [BH3-]C#N.[Na+]
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | ZnCl2 | 7.2 mmol, 0.981 g | [Cl-].[Cl-].[Zn+2]
product | N-(4-chlorobenzyl)-4-cyanobenzyl amine | ClC1=CC=C(CNCC2=CC=C(C=C2)C#N)C=C1 | C15H13ClN2
